US07368578B2
To a solution of 4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxybenzaldehyde (3.00 g) in tetrahydrofuran (30 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.36 g) at 0° C. After stirring at room temperature for 1 hr., water was added to the reaction mixture and the precipitated crystals were collected by filtration to give (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxyphenyl)methanol as colorless crystals (2.91 g, yield 96%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 117-118° C.

reactant | 4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxybenzaldehyde | 3.00 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC(=C(C=O)C=C1)OC)C | C17H15NO5
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.36 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-2-methoxyphenyl)methanol | 2.91 g, yield 96% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC(=C(C=C1)CO)OC)C | C17H17NO5
